US06228547B1
A mixture of 40.0 g (268.1 mol) of m-acetotoluidine, 45.0 g (223.9 mol) of 3,4-bromomethylenedioxybenzene, 8 g (50.1 mol) of copper sulfate, and 31 g (267.7 mmol) of potassium carbonate was reacted in the same manner as in Example 5 (2) to obtain a crude reaction product. A mixture of this crude product, 50 g (757.4 mmol) of 85% KOH, and 200 ml of methanol was refluxed overnight and then concentrated. Water was added thereto. The resultant mixture was extracted with toluene twice. The toluene phase was washed with water three times, dried, and then concentrated. The residue was distilled under vacuum to obtain 24.51 g of N-3,4-methylenedioxyphenyl-N-m-tolylamine.

reactant | m-acetotoluidine | 268.1 mol, 40.0 g | CC1=CC(=CC=C1)NC(=O)C | C9H11NO
reactant | potassium carbonate | 267.7 mmol, 31 g | C([O-])([O-])=O.[K+].[K+]
reactant | KOH | 757.4 mmol, 50 g | [OH-].[K+]
catalyst | copper sulfate | 50.1 mol, 8 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | methanol | 200 ml | CO | CH4O
product | N-3,4-methylenedioxyphenyl-N-m-tolylamine | 24.51 g | C1OC=2C=C(C=CC2O1)NC=1C=C(C=CC1)C | C14H13NO2
